US06689922B1
d) 5-{2-[3-(7-Hydroxy-1-methoxy-1,7-dimethyloctyl)phenyl]vinyl}benzene-1,3-diol
In a manner similar to Example 1(j), by reacting 0.2 ml of concentrated sulphuric acid in 3 ml of methanol with 350 mg (0.6 mmol) of 2-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}-8-methyl-8-(tetrahydropyran-2-yloxy)nonan-2-ol in 3 ml of methanol and 3 ml of THF, after purification on a silica column (ethyl acetate 60-heptane 40), white crystals (m=76 mg; Y=32%) are obtained. m.p.=65-75° C.

reactant | sulphuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}-8-methyl-8-(tetrahydropyran-2-yloxy)nonan-2-ol | 0.6 mmol, 350 mg | C(C)OCOC=1C=C(C=C(C1)OCOCC)C=CC=1C=C(C=CC1)C(C)(CCCCCC(C)(OC1OCCCC1)C)O | C35H52O7
reactant | methanol | 3 ml | CO | CH4O
reactant | methanol | 3 ml | CO | CH4O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-{2-[3-(7-Hydroxy-1-methoxy-1,7-dimethyloctyl)phenyl]vinyl}benzene-1,3-diol | OC(CCCCCC(C)(OC)C=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C25H34O4
